US06100057
Effect of hemA and hemB co-overexpression on Coprinus cinereus peroxidase production.
Aspergillus oryzae strain SE01-28 described in Example 9 was transformed with pSE38 to create new transformants designated Aspergillus oryzae SE27 according to the method described in Example 8 with the exceptions that Basta resistance was used for selection and 2-8 μg of NdeI digested pSE38 was added per transformation directly from the reaction so that ~5 U of enzyme was included in the transformation mixture. Media for Basta selection contained 20 ml of COVE salts, 1 M sucrose, 25 g/L Noble agar, 10 mM Urea, and either 5 mg/ml Basta (Hoechst Schering, Rodovre, Denmark) for transformation or 10 mg/ml Basta for maintaining transformants. The COVE salts were composed of 26 g of KCl, 26 g of MgSO4 -7H2O, 76 g of KH2PO4, and 50 ml of COVE trace elements per liter of deionized water. The COVE trace elements were composed of 0.04 g of Na2B4O7 -10H2O, 0.4 g of CuSO4 -5H2O, 1.2 g of FeSO4 -7H2O, 0.7 g of MnSO4 -H2O, 0.8 g of Na2MoO2 -H2O, 10 g of ZnSO4 -7H2O per liter of deionized water. Maltose was added to a final concentration of 2.5%, when indicated. Basta selection overlay medium was the same as above except that Basta was added prior to use.

reactant | sucrose | 1 M | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | Urea | 10 mM | NC(=O)N | CH4N2O
reactant | KCl | 26 g | [Cl-].[K+]
reactant | MgSO4 | 26 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | KH2PO4 | 76 g | OP(=O)(O)[O-].[K+]
reactant | Maltose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@H](O[C@H]([C@@H]([C@H]2O)O)O)CO)O)O)O)O | C12H22O11
catalyst | CuSO4 | 0.4 g | [O-]S(=O)(=O)[O-].[Cu+2]
catalyst | MnSO4 H2O | 0.7 g | [O-]S(=O)(=O)[O-].[Mn+2].O
catalyst | ZnSO4 | 10 g | [O-]S(=O)(=O)[O-].[Zn+2]
solvent | water | O | H2O
product | hemA | CC(=C)C(=O)OCCO | C6H10O3
